US04464300
100 g of 2-amino-2'-chloro-5-nitrobenzophenone are suspended in 865 ml of 25% hydrochloric acid and treated portionwise with a total of 269 g of tin (II) chloride. The mixture is stirred at room temperature for 36 hours, then diluted with 0.5 l of an ice/water mixture and adjusted to pH 10 with about 2.17 l of a 28% sodium hydroxide solution. The mixture is extracted with methylene chloride. After evaporation of the solvent, the residue is dissolved in 0.54 l of ether and crystallized at about -20°. There is obtained 2,5-diamino-2'-chlorobenzophenone of melting point 30°-40°.

reactant | 2-amino-2'-chloro-5-nitrobenzophenone | 100 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C13H9ClN2O3
reactant | tin (II) chloride | 269 g | [Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 865 ml | Cl | ClH
product | 2,5-diamino-2'-chlorobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)N | C13H11ClN2O
